Vackar's Oscillator Circuit
* Vackar is a derivation of Colpitt's oscillator (LC based).
* Oscillation is taken on node 4.
* Predicted frequency is 1.91803e+06Hz.

* Models:
.model qnl npn(level=1 bf=80 rb=100 ccs=2pf tf=0.3ns tr=6ns cje=3pf cjc=2pf va=50)

vcc 	1 0 	5 pwl 0 10 1e-9 5
lrfc	1 2	100u
cdec	2 0	7n
q1 	3 2 0	qnl	
rb 	3 0 	4700
c1 	3 4 	100p
c2 	3 0 	600p
c0	4 0	1n
l1 	4 1 	6.2u

.control
tran 10n 20u
plot v(4)
linearize v(4)
fft v(4)
set xbrushwidth=3
plot mag(v(4)) xlimit 0 10Meg
let maxfft=mag(v(4))
meas sp fosc MAX_AT maxfft from=1Meg to=10Meg
reset
pss 1.8e6 20e-6 4 1024 10 50 5e-3 uic
plot v(4) xlimit 0 10Meg
.endc
.end

